* Z:\home\jack\Projects\Jerry\Jerry\remote.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 N003 CLK P001 P002 N003 N004 $G_VCC NE555
C1 0 P002 1nF
R1 P001 $G_VCC 10k
Vcc $G_VCC 0 5
R2 N004 N003 2k
R3 $G_VCC N004 100
D1 CLK P003 D
R4 0 P003 300
C2 0 N003 0.01µF
X§U2 CLK NC_01 N002 N001 NC_02 NC_03 74HC393
.model D D
.lib C:\users\jack\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.001
.lib NE555.sub
.lib Z:\home\jack\Downloads\KiCad-Spice-Library\Models\Digital Logic\74HC.LIB
.backanno
.end
